US05965606
Ethyl 8-Nitro-2,2,4,4-tetramethyl-6-chromanoate (Compound W)
Ethyl 2,2,4,4-tetramethyl-6-chromanoate (150 mg, 0.57 mmol) was slowly added to 0.3 ml of conc. H2SO4 at 0° C. To this mixture was added very slowly 0.03 ml of HNO3. The reaction mixture was stirred at 0° C. for 30 min and poured into ice-water. The product was extracted into 5 ml of ethyl acetate, washed with NaHCO3 (sat.), brine and dried over MgSO4. After concentration, the product was purified by column chromatography (ethyl acetate/hexane 1/10) to yield 74 mg of light-yellow oil.

reactant | Ethyl 2,2,4,4-tetramethyl-6-chromanoate | 0.57 mmol, 150 mg | CC1(OC2=CC=C(C=C2C(C1)(C)C)C(=O)OCC)C | C16H22O3
reactant | H2SO4 | 0.3 ml | OS(=O)(=O)O | H2O4S
reactant | HNO3 | 0.03 ml | [N+](=O)(O)[O-] | HNO3
product | Ethyl 8-Nitro-2,2,4,4-tetramethyl-6-chromanoate | 74 mg | [N+](=O)([O-])C=1C=C(C=C2C(CC(OC12)(C)C)(C)C)C(=O)OCC | C16H21NO5
